US06921762B2
Step D: 5-hydroxy-7-(2-chloro-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine
1 g of crude 5-methylthio-7-(2-chloro-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine and 15 ml of 2M NaOH in 15 ml 1,4-dioxane in a 150-ml r.b.flask with a stir bar was stirred at 80° C. The basic solution was cooled down to room temperature and neutralized to pH 7.5 with 10% HCl. A precipitate was formed, filtered off and washed with water (2×10 ml). The solid was dried under vacuum at 70° C. overnight to give a solid product; MS m/z (M+H)+ 392.1.

reactant | 5-methylthio-7-(2-chloro-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine | 1 g | CSC1=NC(=C(C=2N1C=NN2)C2=CC(=CC=C2)C(F)(F)F)C2=CC(=NC=C2)Cl | C18H11ClF3N5S
reactant | NaOH | 2M, 15 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 5-hydroxy-7-(2-chloro-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine | OC1=NC(=C(C=2N1C=NN2)C2=CC(=CC=C2)C(F)(F)F)C2=CC(=NC=C2)Cl | C17H9ClF3N5O
